US07094579B2
L-Rhamnose Dose Studies for Expression of rMET1 Antibody in Two E. coli Strains
The plasmid pBRsacH3 (Example 1) was used for cloning the rMET1 antibody (Example 9). In this case, the kappa and heavy chains were engineered with human ceruloplasmin and human neutrophil defensin signal sequences, respectively (Example 9). This plasmid was electroporated into E. coli strain DH10B rha+ to generate clone rMET1.LS.1, which was cultured under 10 μg/mL tetracycline selection. The plasmid was also electroporated into E. coli strain ECL339 rha− to generate clone rMET1.ECL.1 which was cultured under 100 μg/mL ampicillin selection.

reactant | tetracycline | C[C@]1(C=2C=CC=C(C2C(=O)C3=C([C@]4([C@@H](C[C@@H]31)[C@@H](C(=C(C4=O)C(=O)N)O)N(C)C)O)O)O)O | C22H24N2O8
reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
product | L-Rhamnose | O=C[C@H](O)[C@H](O)[C@@H](O)[C@@H](O)C | C6H12O5
